US08835470B2
(R/S)-3-(2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoic acid (Int-V, 25 mg, 0.050 mmol), 3,3-difluoroazetidine-HCl (6.45 mg, 0.050 mmol), 4-methylmorpholine (20.13 mg, 0.199 mmol), and HATU (24.60 mg, 0.065 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified by prep HPLC (PHENOMENEX® Luna 5u 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM, product retention=10.6 min) to provide (R/S)-N-(3-(3,3-difluoroazetidin-1-yl)-3-oxopropyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (5 mg, 6.53 μmol, 13.12% yield): LCMS=578.3 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.14-8.24 (2 H, m), 7.51-7.74 (7 H, m), 5.11 (1 H, s), 4.49 (2 H, td, J=11.77, 7.04 Hz), 4.29 (2 H, t, J=12.21 Hz), 3.45-3.58 (2 H, m), 2.38-2.52 (2 H, m); HPLC peak RT=9.4 min (Method A).

reactant | (R/S)-3-(2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamido)propanoic acid | 0.050 mmol, 25 mg | OC(C(=O)NCCC(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C23H17F3N4O6
reactant | 3,3-difluoroazetidine-HCl | 0.050 mmol, 6.45 mg | Cl.FC1(CNC1)F
reactant | 4-methylmorpholine | 0.199 mmol, 20.13 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.065 mmol, 24.60 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-N-(3-(3,3-difluoroazetidin-1-yl)-3-oxopropyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 6.53 μmol, 5 mg, 13.12% yield | FC1(CN(C1)C(CCNC(C(C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O)=O)=O)F | C26H20F5N5O5
